US07838674B2
18.e: 6,8-Dioxo-2,5-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester
6,8-Dioxo-2,5-diaza-spiro[3.5]nonane-2,7-dicarboxylic acid 2-tert-butyl ester 7-methyl ester (1.1 g; 3.5 mmol) is refluxed in acetonitrile/water (18 ml/2 ml) for 50 minutes and evaporated to dryness. The residue is triturated with CH2Cl2 to deliver the title compound as colorless crystals. 1H-NMR (400 MHz; DMSO-d6): Keto-enol tautomerism. 10.70 (s, 1H); 8.75 (s, 0.5H); 7.55 (s, 0.5H); 4.85 (s, 1H); 3.94 (bd, 2H); 3.86 (bd, 2H); 3.78 (bs (2H); 1.40 (s, 9H); MS (m/z) ES+: 255 (25; MH+); 199 (100).

reactant | 6,8-Dioxo-2,5-diaza-spiro[3.5]nonane-2,7-dicarboxylic acid 2-tert-butyl ester 7-methyl ester | 3.5 mmol, 1.1 g | COC(=O)C1C(NC2(CN(C2)C(=O)OC(C)(C)C)CC1=O)=O | C14H20N2O6
solvent | acetonitrile water | 18 ml | C(C)#N.O
product | 6,8-Dioxo-2,5-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(C1)NC(CC(C2)=O)=O | C12H18N2O4
